US05663437
A solution of 4,4'-dinitro-2-biphenylamine (12.00 g, 46.29 mmol), 4-dimethylaminopyridine (5.77 g, 47.22 mmol) and N-methyl-2-pyrrolidinone (130ml) was stirred under a nitrogen atmosphere. Benzoyl chloride (9.69 g, 68.92 mmol) was added by dropping funnel at ambient temperature and the mixture heated to 160° C. and maintained at that temperature for 18 h. The resulting solution was poured into 1200 ml ice water with stirring and continued stirring overnight to give a light brown precipitate. The precipitate was filtered out and washed with water (2×100 ml), 5% sodium bicarbonate solution (2×100 ml) and water (4×200 ml) until the filtrate was clear. The crude product was dried under reduced pressure at 138° C. for 24 h to give 4,4'-dinitrobiphenyl-2-benzamide as a light brown powder (16.65 g, 99%), m.p. 242°-244° C.

reactant | 4,4'-dinitro-2-biphenylamine | 46.29 mmol, 12.00 g | [N+](=O)([O-])C=1C=C(C(=CC1)C1=CC=C(C=C1)[N+](=O)[O-])N | C12H9N3O4
reactant | Benzoyl chloride | 68.92 mmol, 9.69 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N-methyl-2-pyrrolidinone | 130ml | CN1C(CCC1)=O | C5H9NO
catalyst | 4-dimethylaminopyridine | 47.22 mmol, 5.77 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4,4'-dinitrobiphenyl-2-benzamide | 16.65 g, 99% | [N+](=O)([O-])C=1C=C(C(=CC1)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1C(=O)N | C19H13N3O5
